US05593993
1-[(2-benzimidazolyl)thiocarbamoyl]imidazole
A solution of 1,1'-thiocarbonyldiimidazole (8.91 g, 50 mmol) and 2-aminobenzimidazole (6.66 g, 50 mmol) in acetonitrile (50 mL) was stirred at room temperature for 19 hours. The resulting precipitate was collected by filtration to provide 8.92 g (73%) of the titled product:

reactant | 1,1'-thiocarbonyldiimidazole | 50 mmol, 8.91 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | 2-aminobenzimidazole | 50 mmol, 6.66 g | NC=1NC2=C(N1)C=CC=C2 | C7H7N3
solvent | acetonitrile | 50 mL | C(C)#N | C2H3N
product | 1-[(2-benzimidazolyl)thiocarbamoyl]imidazole | 8.92 g, 73% | N1=C(NC2=C1C=CC=C2)NC(=S)N2C=NC=C2 | C11H9N5S
